US08097610B2
A mixture of 3-{[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl}-5-methylphenol (0.50 g; 1.34 mmol), bromoethyl acetate (0.22 ml; 2.01 mmol) and cesium carbonate (0.65 g; 2.01 mmol) in anhydrous N,N-dimethylformamide (5 ml) was stirred at 50° C. for 17 hours. Water and ethyl acetate were added to the reaction solution and extracted. The organic layer was washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure. The residue was purified by column chromatograph on silica gel (hexane:ethyl acetate=2:1) to give {3-[[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl]-5-methyl}+phenoxyethyl acetate as pale yellow oil (0.48 g; 78%).

reactant | 3-{[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl}-5-methylphenol | 1.34 mmol, 0.50 g | ClC1=CC2=C(N=C(S2)N2CCN(CC2)CC=2C=C(C=C(C2)C)O)C=C1 | C19H20ClN3OS
reactant | bromoethyl acetate | 2.01 mmol, 0.22 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | cesium carbonate | 2.01 mmol, 0.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | phenoxyethyl acetate | C(C)(=O)OCCOC1=CC=CC=C1 | C10H12O3
